US08232272B2
To 200 ml of dichloromethane are added 23.7 g (0.176 M) of aluminium chloride. The mixture is cooled to 10° C. and 10 g (0.089 M) of chlorobenzene are added dropwise. The resulting mixture is stirred for one hour at 15° C. followed by dropwise addition of 9.2 ml (0.089 M) of 2-bromopropionyl bromide. The reaction medium is then stirred for 16 hours at room temperature. The reaction medium is then poured into an ice/water mixture. The organic phase is separated out by settling, washed twice with demineralised water and then dried over sodium sulfate. After evaporating under vacuum, an oil is obtained, which crystallises to give 21 g of 2-bromo-1-(4-chlorophenyl)propan-1-one.

reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | aluminium chloride | 0.176 M, 23.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromopropionyl bromide | 0.089 M, 9.2 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | chlorobenzene | 0.089 M, 10 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2-bromo-1-(4-chlorophenyl)propan-1-one | 21 g, Yield: 95.5% | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
